US07214686B2
1-(3-Pyridyl)-3-(4-oxanyl)propan-1 one oxime
To 1-(3-pyridyl)-3-(4-oxanyl)propan-1-one (3.00 g, 13.7 mmol) was added saturated aqueous Na2CO3 (25 mL) and hydroxylamine hydrochloride (5.71 g, 82.2 mmol) in small portions. Solid K2CO3 was added to make the solution basic (pH>10). The reaction mixture was stirred overnight at ambient temperature and extracted with chloroform (4×40 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated by rotary evaporation. The resulting colorless viscous liquid (3.00 g, 93.8%) solidified upon standing at ambient temperature.

reactant | 1-(3-pyridyl)-3-(4-oxanyl)propan-1-one | 13.7 mmol, 3.00 g | N1=CC(=CC=C1)C(CCC1CCOCC1)=O | C13H17NO2
reactant | Na2CO3 | 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 82.2 mmol, 5.71 g | Cl.NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 1-(3-Pyridyl)-3-(4-oxanyl)propan-1 one oxime | N1=CC(=CC=C1)C(CCC1CCOCC1)=NO | C13H18N2O2
